US04479901
Diethyl 2-methylmalonate (870 mg, 860 μL, 5 mmole) was dissolved in anhydrous tetrahydrofuran (10 mL) under nitrogen. Sodium hydride (250 mg as a 60% oil dispersion, 6 mmole) was added and the mixture was stirred until hydrogen evolution ceased (about 15 minutes). The reaction mixture was diluted with toluene (20 mL) and transferred dropwise to a solution of N-fluoro-N-neopentyl-p-toluenesulfonamide (1.295 g, 5 mmole) in anhydrous toluene (10 mL) over 5 minutes. A precipitate formed during addition and the reaction temperature rose from 23° to 36°. After stirring an additional 5 minutes under nitrogen, the reaction mixture was diluted with ether (100 mL), washed with aqueous 1N oxalic acid (30 mL), 10% aqueous potassium bicarbonate (30 mL), and saturated aqueous sodium chloride (30 mL) solutions, and then dried over anhydrous magnesium sulfate. Filtration, removal of solvent under reduced pressure, and purification by flash column chromatography (silica, 1:1 methylene chloride-hexane) yielded diethyl 2-fluoro-2-methylmalonate (512 mg, 53% yield) as a colorless liquid. This material, and additional samples prepared by this procedure, were analyzed and provided the following results: IR (liquid film) γmax (cm-1) 2940 (m), 1750 (s, ester), 1440 (m), 1370 (m), 1290 (s); 1H NMR (80 MHz, CDCl3) δ1.33 (t, J=8 Hz, 6H, CH2CHHD 3), 1.81 (d, J=22.67 Hz, 3H, CH3), 4.30 (q, J=8 Hz, 4H, CH2); 19F NMR (94.1 MHz, CDCl3) -158.02 (q, J=22 Hz, 1F); HRMS (M--CH2CH3) calcd. for C6H8O3F: 147.0457; found: 147.0450; LRMS (CI) m/e 193.

reactant | Diethyl 2-methylmalonate | 5 mmole, 860 μL, 870 mg | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | Sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | N-fluoro-N-neopentyl-p-toluenesulfonamide | 5 mmole, 1.295 g | FN(S(=O)(=O)C1=CC=C(C=C1)C)CC(C)(C)C | C12H18FNO2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | 100 mL | CCOCC | C4H10O
product | diethyl 2-fluoro-2-methylmalonate | 512 mg, 53% yield | FC(C(=O)OCC)(C(=O)OCC)C | C8H13FO4
